US06706715B2
4-[3-(2-{1-[4-carboxyphenyl]-ethylamino}-phenyl)-ureido]-benzonitrile
12.8 g (88.8 mmol) 4-cyanophenylisocyanat were dissolved in 500 ml diethyl ether at rt. 9.6 g (88.8 mmol) o-phenylene diamine were added with stirring. After stirring overnight, the reaction mixture was filtrated and the solid washed with diethylether. The so prepared mono-urea derivative was sufficient pure for further reactions. 3.78 (15 mmol) were dissolved in 30 ml anhydrous dry DMF, 3.44 g (15 mmol) 4-(1-bromoethyl)-benzoic acid and 2 g potassium carbonate were added and stirred for 3 days at rt. The solvent was removed under reduced pressure, the product dissolved in ethyl acetate and extracted with 1 m HCl, water and brine. The organic phase was dried over sodium sulfate and the solvent removed under reduced pressure.

reactant | 4-cyanophenylisocyanat | 88.8 mmol, 12.8 g | C(#N)C1=CC=C(C=C1)N=C=O | C8H4N2O
reactant | o-phenylene diamine | 88.8 mmol, 9.6 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 4-(1-bromoethyl)-benzoic acid | 15 mmol, 3.44 g | BrC(C)C1=CC=C(C(=O)O)C=C1 | C9H9BrO2
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 4-[3-(2-{1-[4-carboxyphenyl]-ethylamino}-phenyl)-ureido]-benzonitrile | C(=O)(O)C1=CC=C(C=C1)C(C)NC1=C(C=CC=C1)NC(NC1=CC=C(C#N)C=C1)=O | C23H20N4O3
